US05578636
Preparation of 2-(tetrahydro-2-pyranyloxy)acetaldehyde
2-(Tetrahydro-2-pyranyloxy)-propene (20 g, 0.14 mole) was dissolved in dichloro-methane (250 ml). Ozone was bubbled into the solution at -78° C. for about 3 hours until the solution turned blue. Warmed to room temperature and zinc powder (20 g) was added. Acetic acid (20 ml) and water (3 ml) were added slowly with cooling in ice bath. The reaction mixture was further stirred for 2 hours at room temperature and then extracted with dichloromethane. The extract was washed with sodium bicarbonate aqueous solution (10 ml×2), dried over anhydrous magnesium sulfate, concentrated. The crude product was distilled under vacuum (62°-64° C./2 mmHg) gave colorless oil (13.72 g, 68%). 2-(Tetra-hydro-2-pyranyloxy)-propene was directly prepared from allyl alcohol and dihydropyran in the presence of a small amount of p-toluenesulfonic acid.

reactant | 2-(Tetra-hydro-2-pyranyloxy)-propene | O1C(CCCC1)OC(=C)C | C8H14O2
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(tetrahydro-2-pyranyloxy)acetaldehyde | O1C(CCCC1)OCC=O | C7H12O3
